US05990142
6C Ethyl 2-hydroxymethyl-2,3-dihydrobenzofuran-5-carboxylate
A solution of ethyl 3-allyl-4-hydroxybenzoate (6.74 g, 32.7 mmol) in chloroform (105 ml) was added with meta-chloroperbenzoic acid (11.40 g, 66.1 mmol) and the mixture was refluxed under stirring for 4 h. Afterwards, the solvent was evaporated, the crude was redissolved in ethyl acetate and washed with a 1M NaOH solution. After drying and removing the solvent, a crude was obtained which was purified by chromatography through a silica gel column, eluting with n-hexane:ethyl acetate, 90:10, to recover 5.95 g of the title compound (82% yield).

reactant | ethyl 3-allyl-4-hydroxybenzoate | 32.7 mmol, 6.74 g | C(C=C)C=1C=C(C(=O)OCC)C=CC1O | C12H14O3
reactant | meta-chloroperbenzoic acid | 66.1 mmol, 11.40 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 105 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-hydroxymethyl-2,3-dihydrobenzofuran-5-carboxylate | 5.95 g, 82% yield | OCC1OC2=C(C1)C=C(C=C2)C(=O)OCC | C12H14O4
